US06069156
To a mixture of methyl 2-propylindole-6-carboxylate (10 g), methoxyacetic acid (4.6 ml) and carbontetrachloride (13.4 ml) in 1,2-dichloroethane (45 ml) was added slowly triphenylphosphine (16.7 g) in 1,2-dichloroethane (30 ml) over 1 hour under reflux, and the resulting mixture was heated under reflux for additional 8 hours. After evaporation of solvent, the residue was chromatographed on silica gel eluting with a mixture of hexane and ethyl acetate (1:1) and triturated with diethyl ether to give methyl 3-methoxyacetyl-2-propylindole-6-carboxylate (8.11 g).

reactant | methyl 2-propylindole-6-carboxylate | 10 g | C(CC)C=1NC2=CC(=CC=C2C1)C(=O)OC | C13H15NO2
reactant | methoxyacetic acid | 4.6 ml | COCC(=O)O | C3H6O3
reactant | carbontetrachloride | 13.4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | triphenylphosphine | 16.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dichloroethane | 45 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | methyl 3-methoxyacetyl-2-propylindole-6-carboxylate | 8.11 g | COCC(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)CCC | C16H19NO4
